US07618990B2
A mixture of N-(2-hydroxy-1,1-dimethylpropyl)thiourea (720 mg, 4.4 mmol), prepared in the previous step, and 2-bromo-4′-cyano-acetophenone (980 mg, 4.4 mmol) in 20 mL of ethanol was heated under nitrogen to dissolve all of the solids. The reaction was allowed to come to room temperature and then stirred at room temperature overnight. The solid was collected by filtration and dried under reduced pressure to give 4-{2-[(2-hydroxy-1,1-dimethylpropyl)amino]-1,3-thiazol-4-yl}benzonitrile hydrobromide (1.3157 g, 81%) as a white solid, mp 208-210° C.; MS (ES) m/z 286.0 [M−H]−.

reactant | N-(2-hydroxy-1,1-dimethylpropyl)thiourea | 4.4 mmol, 720 mg | OC(C(C)(C)NC(=S)N)C | C6H14N2OS
reactant | 2-bromo-4′-cyano-acetophenone | 4.4 mmol, 980 mg | BrCC(=O)C1=CC=C(C=C1)C#N | C9H6BrNO
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 4-{2-[(2-hydroxy-1,1-dimethylpropyl)amino]-1,3-thiazol-4-yl}benzonitrile hydrobromide | 1.3157 g, 81% | Br.OC(C(C)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1)C | InChI=1S/C15H17N3OS.BrH/c1-10(19)15(2,3)18-14-17-13(9-20-14)12-6-4-11(8-16)5-7-12;/h4-7,9-10,19H,1-3H3,(H,17,18);1H
